US04722929
8-(5-Bromo-2,4-dimethoxy-phenyl)-purin-6-one
Prepared analogously to Example 16 from 6-chloro-8-(5-bromo-2,4-dimethoxy-phenyl)-purine by reaction with 20% potassium hydroxide solution.

reactant | 6-chloro-8-(5-bromo-2,4-dimethoxy-phenyl)-purine | ClC1=C2NC(=NC2=NC=N1)C1=C(C=C(C(=C1)Br)OC)OC | C13H10BrClN4O2
reactant | potassium hydroxide | [OH-].[K+]
product | 8-(5-Bromo-2,4-dimethoxy-phenyl)-purin-6-one | BrC=1C(=CC(=C(C1)C1=NC2=NC=NC(C2=N1)=O)OC)OC | C13H9BrN4O3
